US09376418B2
DMF (800 μL), 1,3-oxazolidin-2-one (28 mg, 0.32 mmol), triethylamine (67 μL, 0.48 mmol) and (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (100 mg, 0.19 mmol) were added to 5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridine-2-carboxylic acid (60 mg, 0.16 mmol) and the reaction was stirred for 60 hours at room temperature. The reaction mixture was then diluted with water and extracted with dichloromethane. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by reverse phase HPLC (10-80% acetonitrile/water with 0.1% TFA) and then chromatography on silica gel (10-100% acetone gradient in hexanes) to afford 3-{[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]carbonyl}-1,3-oxazolidin-2-one. MS ESI calc'd for C21H17F3N5O3 [M+H]+ 444. found 444. 1H NMR (500 MHz, DMSO-d6) δ 10.31 (s, 1H), 8.87-8.77 (m, 2H), 8.13 (dd, J=2.2 Hz, 8.1, 1H), 8.02 (s, 1H), 7.74 (d, J=8.1 Hz, 1H), 7.60 (s, 1H), 7.31-7.21 (m, 2H), 4.49 (t, J=7.8 Hz, 2H), 4.11 (t, J=7.8 Hz, 2H), 2.37 (s, 3H).

reactant | 1,3-oxazolidin-2-one | 0.32 mmol, 28 mg | O1C(NCC1)=O | C3H5NO2
reactant | triethylamine | 0.48 mmol, 67 μL | C(C)N(CC)CC | C6H15N
reactant | (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | 0.19 mmol, 100 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | 5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridine-2-carboxylic acid | 0.16 mmol, 60 mg | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=CC(=NC1)C(=O)O | C18H13F3N4O2
solvent | water | O | H2O
solvent | DMF | 800 μL | CN(C)C=O | C3H7NO
product | 3-{[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]carbonyl}-1,3-oxazolidin-2-one | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=CC(=NC1)C(=O)N1C(OCC1)=O | C21H16F3N5O3
